US06174874B1
Step 1 Dimethyl 2-(4-(diethoxymethyl)benzyl)malonate
To a solution of dimethyl malonate (4.96 mL, 43 mmol) in DMF (80 mL) was added NaH (1.3 g 80% in mineral oil). After 20 min. a solution of 1-(bromomethyl)-4-(diethoxymethyl)benzene (2.37 g, 8.7 mmol) in DMF (5 mL) was added via double-tipped needle. After 1 h at 0° C., the reaction was quenched by the addition of saturated NH4Cl solution. The product was extracted with Et2O and the organic layer wash washed with H2O and brine. After drying (MgSO4) and filtration, the solvent was removed under vacuum. The crude was purified by flash chromatography (1:10 EtOAc/hexane) to yield a colorless oil (1:42 g).

reactant | dimethyl malonate | 43 mmol, 4.96 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | NaH | 1.3 g | [H-].[Na+]
reactant | 1-(bromomethyl)-4-(diethoxymethyl)benzene | 8.7 mmol, 2.37 g | BrCC1=CC=C(C=C1)C(OCC)OCC | C12H17BrO2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Dimethyl 2-(4-(diethoxymethyl)benzyl)malonate | C(C)OC(C1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1)OCC | C17H24O6
